US07700641B2
D. Synthesis of methyl 4-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with methyl 4-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate, the title compound was obtained (81%): MS (ES+) m/z 448.1 (M+1).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | methyl 4-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1)=O | C24H19NO6
product | methyl 4-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1)=O)CO | C25H21NO7
